US09145441B2
Compound 114c: (S)-1-[(S)-2-[(S)-2-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-methyl-butyrylamino]-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To (S)-1-[(S)-2-tert-butoxycarbonylamino-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (1.2 g, 2.26 mmol) in anhydrous dichloromethane (10 mL) at 0° C. and under an atmosphere of nitrogen was added trifluoroacetic acid (1.7 mL, 22.6 mmol). The reaction mixture was stirred for 3 h before concentrating in vacuo and co-evaporating from toluene (1×). The residue was dissolved in anhydrous acetonitrile (24 mL) at room temperature and under an atmosphere of nitrogen was added N,N-diisopropylethylamine (2.0 mL, 11.3 mmol), N-(9-fluorenylmethoxycarbonyl)-L-valine (767 mg, 2.26 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (1.2 g, 3.2 mmol). Following 2 h at room temperature the reaction was cooled to 0° C., diluted with ethyl acetate and quenched with 1 M hydrochloric acid. The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate (2×) and brine (1×). The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:1 then 1:2 to give the title compound (1.4 g, 82%) as a viscous clear oil. 1H NMR (300 MHz, CDCl3) δ 0.89-1.07 (m, 6H), 1.23 (s, 3H), 1.54-1.95 (m, 5H), 2.10-2.23 (m, 1H), 3.29-3.48 (m, 3H), 3.52-3.62 (m, 1H), 3.72-4.00 (m, 3H), 4.20-4.30 (m, 2H), 4.31-4.44 (m, 4H), 4.48 (d, J=5.6 Hz, 1H), 4.54 (d, J=5.6 Hz, 1H), 4.69 (d, J=12.3 Hz, 1H), 4.94 (d, J=12.3 Hz, 1H), 5.44-5.54 (m, 1H), 5.71-5.82 (m, 1H), 6.76 (d, J=7.6 Hz, 1H), 7.30-7.37 (m, 2H), 7.38-7.46 (m, 2H), 7.57-7.67 (m, 2H), 7.75-7.82 (m, 2H). LCMS (m/z) 753.2 [M+H], Tr=3.34 min.

reactant | (S)-1-[(S)-2-tert-butoxycarbonylamino-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 2.26 mmol, 1.2 g | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COCC1(COC1)C)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C20H32Cl3N3O7
reactant | trifluoroacetic acid | 22.6 mmol, 1.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-diisopropylethylamine | 11.3 mmol, 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(9-fluorenylmethoxycarbonyl)-L-valine | 2.26 mmol, 767 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)O | C20H21NO4
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 3.2 mmol, 1.2 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-[(S)-2-[(S)-2-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-methyl-butyrylamino]-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.4 g, 82% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COCC1(COC1)C)NC([C@H](C(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)(Cl)Cl | C35H43Cl3N4O8
